US04105776
By substituting 1-(3-mercapto-2-methylpropanoyl)-L-proline for the 3-mercaptopropanoyl-L-proline in the procedure of Example 97 and then treating the product with ethereal diazomethane as in the procedure of Example 72, 1-[3-(ethyldithio)-2-methylpropanoyl]-L-proline methyl ester is obtained.

reactant | 1-(3-mercapto-2-methylpropanoyl)-L-proline | SCC(C(=O)N1[C@H](C(=O)O)CCC1)C | C9H15NO3S
reactant | 3-mercaptopropanoyl-L-proline | SCCC(=O)N1[C@H](C(=O)O)CCC1 | C8H13NO3S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | 1-[3-(ethyldithio)-2-methylpropanoyl]-L-proline methyl ester | COC([C@H]1N(CCC1)C(C(CSSCC)C)=O)=O | C12H21NO3S2
